US06284756B1
A. 4-(2-Benzo[b]thiophenyl)phenyl Triisopropylsilyl Ether
A mixture of 2-(4-hydroxyphenyl)benzothiophene (2.84 g, 12.6 mmol), triethylamine (2.5 g, 25.2 mmol) and 30 mL dry DMF was cooled in an ice bath and treated with triisopropylsilyl triflate (7.7 g, 25.2 mmol). The reaction was allowed to warm to room temperature, quenched with 100 mL brine then extracted twice with 50 mL EtOAc. The combined extract was washed with brine, dried over MgSO4 and concentrated to dryness. The resulting solid was purified by chromatrography (SiO2, 5% EtOAc in Hexanes) to yield 4.7 g (12.3 mmol, 98%) of a solid.

reactant | 2-(4-hydroxyphenyl)benzothiophene | 12.6 mmol, 2.84 g | OC1=CC=C(C=C1)C=1SC2=C(C1)C=CC=C2 | C14H10OS
reactant | triethylamine | 25.2 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | triisopropylsilyl triflate | 25.2 mmol, 7.7 g | O(S(=O)(=O)C(F)(F)F)[Si](C(C)C)(C(C)C)C(C)C | C10H21F3O3SSi
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(2-Benzo[b]thiophenyl)phenyl Triisopropylsilyl Ether | 12.3 mmol, 4.7 g, 98% | C(C)(C)[Si](C(C)C)(C(C)C)OC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C23H30OSSi
